US07981879B2
Step 2: 1,4-oxazepan-5-one oxime
A solution of NH2OH HCl (2 eq.) in methanol was added to an equimolar methanolic solution of KOH. KCl was filtered off and the filtrate was added to a solution of 1,4-oxazepane-5-thione (1 eq.) in methanol. The mixture was stirred at 55° C. overnight, then cooled to room temperature and the solvent was removed under reduced pressure. The residue was taken in chloroform, washed with brine, dried (Na2SO4) and concentrated under reduced pressure to give, after trituration with ethyl ether, the title compound. 1H NMR (300 MHz, CDCl3) δ 8.9 (bs, 1H), 6.15 (bs, 1H), 3.68-3.51 (m, 4H), 3.21-3.19 (m, 2H), 2.38-2.31 (m, 2H); MS (ES) C5H10N2O2 requires 130. Found: 131 (M+H+).

reactant | NH2OH HCl | 2 eq. | NO.Cl
reactant | KOH | [OH-].[K+]
reactant | 1,4-oxazepane-5-thione | 1 eq. | O1CCNC(CC1)=S | C5H9NOS
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
product | 1,4-oxazepan-5-one oxime | O1CCNC(CC1)=NO | C5H10N2O2
